US07652064B2
Dissolve 3-hydroxy-4-iodobenzoic acid (2.02 g, 7.65 mmol) in ethanol saturated with HCl gas (50 ml). Heat the solution under reflux overnight. Evaporate ethanol to yield 3-Hydroxy-4-iodo-benzoic acid ethyl ester compound (97% yield).

reactant | 3-hydroxy-4-iodobenzoic acid | 7.65 mmol, 2.02 g | OC=1C=C(C(=O)O)C=CC1I | C7H5IO3
reactant | ethanol | C(C)O | C2H6O
solvent | HCl | 50 ml | Cl | ClH
product | 3-Hydroxy-4-iodo-benzoic acid ethyl ester | 97% yield | C(C)OC(C1=CC(=C(C=C1)I)O)=O | C9H9IO3
